US07427612B2
(2-Morpholin-4-yl-5-nitro-phenyl)-(4-phenyl-piperazin-1-yl)-methanone
The title compound was prepared according to the procedure described for example 1 from (2-Fluoro-5-nitro-phenyl)-(4-phenyl-piperazin-1-yl)-methanone and morpholine (87%, yellow solid, MS (m/e): 397.3 (M+H, 100%)

reactant | (2-Fluoro-5-nitro-phenyl)-(4-phenyl-piperazin-1-yl)-methanone | FC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C1=CC=CC=C1 | C17H16FN3O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (2-Morpholin-4-yl-5-nitro-phenyl)-(4-phenyl-piperazin-1-yl)-methanone | N1(CCOCC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C1=CC=CC=C1 | C21H24N4O4
